* source IBIS_SIM
.EXTERNAL OUTPUT OUTPUT
V_V1         N14567 0 3.3Vdc
R_R1         N14567 N14662  1k TC=0,0 
V_V2         N14608 0 3.3Vdc
R_R3         0 OUTPUT  1k TC=0,0 
X_U1         N14608 OUTPUT N14662 SPARTAN7_SSTL15_R_S_HR_TYP PARAMS: 
+  R_PIN=0.3345 L_PIN=4.35E-09 C_PIN=7.2E-13
